US05252538
Preparation of triethyl-1,6-dihydro-6-oxo-2,3,5-pyridinetricarboxylate
A solution of ethylmalonamate (23.6 g, 0.18 mol) in absolute ethanol (300 mL) is added to a stirred solution of diethyl ethoxymethyleneoxalacetate (44.0 g, 0.18 mol) in ethanol (200 mL) at 0° C., followed by the addition, of solid sodium acetate (14.72 g, 0.18 mol). After stirring for ten minutes at 0° C., the mixture is heated to reflux and stirred for 13.5 hours. After cooling, the ethanol is removed under vacuum, and the residue diluted with water and acidified to pH 2 with concentrated hydrochloric acid. The aqueous solution is extracted with methylene chloride (2×200 mL) and the organic layer washed with 300 mL saturated sodium chloride, then dried over anhydrous magnesium sulfate and concentrated in vacuum to give 45.0 g of the title product as an orange oil. PG,99

reactant | ethylmalonamate | 0.18 mol, 23.6 g | C(C)C(C(=O)[O-])C(=O)N
reactant | diethyl ethoxymethyleneoxalacetate | 0.18 mol, 44.0 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | sodium acetate | 0.18 mol, 14.72 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | triethyl-1,6-dihydro-6-oxo-2,3,5-pyridinetricarboxylate | 45.0 g | C(C)OC(=O)C=1NC(C(=CC1C(=O)OCC)C(=O)OCC)=O | C14H17NO7
